US08541596B2
N-(Pentan-2-yl)-1H-benzo[d]imidazol-5-amine
The compound was synthesized starting from benzimidazol-5-amine (399 mg; 3 mmol; 1 eq.), 2-pentanal (284 mg; 0.351 ml; 3.3 mmol; 1.1 eq) and NaBH4 (228 mg; 6 mmol; 2 eq.) as described in method 3; Yield: 0.264 g (43.3%); MS m/z: 204.4 [M+H]+; 1H-NMR (400 MHz, DMSO d6): δ 0.88 (t, 3H, 3J=7.5 Hz); 1.10 (d, 3H, 3J=6.2 Hz); 1.32-1.42 (m, 3H); 1.49-1.56 (m, 1H); 3.35-3.37 (m, 1H); 5.02 (br s, 1H); 6.52-6.55 (m, 2H); 7.25 (d, 1H, 3J=8.7 Hz); 7.83 (s, 1H); 11.81 (br s, 1H); HPLC (METHOD [A]): rt 7.79 min (80.5%)

reactant | benzimidazol-5-amine | 3 mmol, 399 mg, 1 eq. | N1=CNC2=C1C=CC(=C2)N | C7H7N3
reactant | 2-pentanal | 3.3 mmol, 0.351 ml, 284 mg, 1.1 eq | CC(CCC)=O | C5H10O
reactant | NaBH4 | 6 mmol, 228 mg, 2 eq. | [BH4-].[Na+]
product | N-(Pentan-2-yl)-1H-benzo[d]imidazol-5-amine | CC(CCC)NC1=CC2=C(NC=N2)C=C1 | C12H17N3
